### PR TITLE
feat: add `List.commonPrefix` and its lemmas

### PR DESCRIPTION
**Pull request by chabulhwi**
The function `List.commonPrefix` returns the longest common prefix of
two lists.

Co-authored-by: Kyle Miller <kmill31415@gmail.com>

---

The changes in this pull request were initially included in #987.

### CODE REVIEW

File: Batteries/Data/List/Basic.lean [hunk 1]
```diff
@@ -10,6 +10,16 @@ namespace List
...
+/-- Returns the longest common prefix of two lists. -/
+def commonPrefix [DecidableEq α] : (l₁ l₂ : List α) → List α
+  | [], _ => []
+  | _, [] => []
+  | a₁::l₁, a₂::l₂ =>
+    if a₁ = a₂ then
+      a₁ :: (commonPrefix l₁ l₂)
+    else
+      []
+
```
Comment (eric-wieser) [inline Batteries/Data/List/Basic.lean:22]: Does it makes sense to define this instead as
```suggestion
/-- Extract the longest common prefix of two lists, and the remainder of each list. -/
def extractCommonPrefix [DecidableEq α] : (l₁ l₂ : List α) → List α × List α × List α 
  | [], l₂ => ([], [], l₂)
  | l₁, [] => ([], l₁, [])
  | a₁::l₁, a₂::l₂ =>
    if a₁ = a₂ then
      let (common, l₁, l₂) := extractCommonPrefix l₁ l₂
      (a₁ :: common, l₁, l₂)
    else
      ([], a₁::l₁, a₂::l₂)
```
which gives you the extra data you want at the same time.

File: Batteries/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -482,6 +482,56 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
...
+      apply commonPrefix_prefix_left
+    · next h =>
+      simp [h]
+
+theorem commonPrefix_prefix_right (l₁ l₂ : List α) : commonPrefix l₁ l₂ <+: l₂ := by
+  rw [commonPrefix_comm]
+  apply commonPrefix_prefix_left
+
+theorem commonPrefix_append_append (p l₁ l₂ : List α) :
+    commonPrefix (p ++ l₁) (p ++ l₂) = p ++ commonPrefix l₁ l₂ := by
```
[the remark this answers is not in the document]
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:519]: I'll do it after I have dinner!

File: Batteries/Data/List/Basic.lean (hunk 1 above)
Comment (chabulhwi) [reply Batteries/Data/List/Basic.lean:22]: Yesterday, I found [`Substring.commonPrefix`][0] and decided to create a `List` version of it. Perhaps I should've followed [@fgdorais's suggestion][1] more strictly. I'll modify my code after I get some rest.

[0]: https://leanprover-community.github.io/mathlib4_docs/Batteries/Data/String/Basic.html#Substring.commonPrefix

Comment (fgdorais) [reply Batteries/Data/List/Basic.lean:22]: You can then add `commonPrefix` as an abbrev to grab just the first component.

Comment (fgdorais) [reply Batteries/Data/List/Basic.lean:22]: For your convenience, here is the tail recursive version of Eric's `extractCommonPrefix`.
```lean
def extractCommonPrefixTR [DecidableEq α] (l₁ l₂ : List α) : List α
  loop [] l₁ l₂
where
  loop (acc : List) : (l₁ l₂ : List α) → List α
  | [], l₂ => (acc.reverse, [], l₂)
  | l₁, [] => (acc.reverse, l₁, [])
  | a₁::l₁, a₂::l₂ =>
    if a₁ = a₂ then
      loop (a₁ :: acc) l₁ l₂
    else
      (acc.reverse, l₁, l₂)

@[csimp] theorem extractCommonPrefix_eq_extractCommonPrefixTR :
    @extractCommonPrefix = @extractCommonPrefixTR := sorry
```
Let me know if you run into issues proving the csimp theorem.

Comment (chabulhwi) [reply Batteries/Data/List/Basic.lean:22]: How about having both of these two definitions without making `commonPrefix` an `abbrev`? That'd make it easier to add new lemmas about `commonPrefix`.

Comment (fgdorais) [reply Batteries/Data/List/Basic.lean:22]: Try the abbrev first. In principle, the abbrev should cut down on the number of necessary lemmas.  Let's see how it works out in practice. Take your time and ping me here or on Zulip if you run into issues.

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:519]: > I'll do it after I have dinner!

Since I'm going to redefine `commonPrefix`, I'll do it after I get more rest.
